US07432299B2
(2S,4S)-4-(3-fluoro-phenoxymethyl)-pyrrolidine-2-carboxylic acid
4-(3-fluoro-phenoxymethyl)-pyrroline-1,2-dicarboxylic acid di-tert-butyl ester (Preparation 5, 475 mg, 1.2 mmol) was dissolved in a solution of anhydrous hydrogen chloride in dioxane (4M, 15 ml) and stirred at 50° C. under a nitrogen atmosphere for 1 hour. The solvent was removed under reduced pressure and the resulting semi-solid triturated with ethyl acetate to give a white solid which was recrystallised from ethyl acetate/isopropyl alcohol to give the title compound as a mixture of diastereomers (˜5:1 2S,4S:2S,4R) as a white solid hydrochloride salt (90 mg, 35%)

reactant | 4-(3-fluoro-phenoxymethyl)-pyrroline-1,2-dicarboxylic acid di-tert-butyl ester | 1.2 mmol, 475 mg | C(C)(C)(C)OC(=O)N1C(=CC(C1)COC1=CC(=CC=C1)F)C(=O)OC(C)(C)C | C21H28FNO5
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | 4M, 15 ml | O1CCOCC1 | C4H8O2
product | (2S,4S)-4-(3-fluoro-phenoxymethyl)-pyrrolidine-2-carboxylic acid | FC=1C=C(OC[C@H]2C[C@H](NC2)C(=O)O)C=CC1 | C12H14FNO3
